US07192906B2
Ethyl bromopyruvate (80% purity), 38.9 g (200 mmol as calculated on an assumption of 100% purity) was dissolved in 100 ml of ethanol. At room temperature, 16.6 g (200 mmol) of methoxyamine hydrochloride was added to the solution, followed by heating under reflux for 2 hours. After reaction had been completed, ethanol was distilled away, and 200 ml of ethyl acetate was added to the residue. The reaction product was washed sequentially with a saturated aqueous solution of sodium hydrogencarbonate and an aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. Filtration and subsequent distillation to remove the solvent gave 36.9 g (165 mmol) of ethyl 2-methoxyimino-3-bromopropionate as a light yellow oily matter. The yield was 80%. The product synthesized was subjected to the next reaction without purification.

reactant | Ethyl bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | methoxyamine hydrochloride | 200 mmol, 16.6 g | Cl.CON
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-methoxyimino-3-bromopropionate | 165 mmol, 36.9 g, yield was 80% | CON=C(C(=O)OCC)CBr | C6H10BrNO3
